US06355680B1
In the manner described in example 3, 2-bromophenylacetic acid is condensed with 2-nitroaniline to yield 2-[(2-nitrophenyl)amino]phenylacetic acid.

reactant | 2-bromophenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | 2-nitroaniline | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
product | 2-[(2-nitrophenyl)amino]phenylacetic acid | [N+](=O)([O-])C1=C(C=CC=C1)NC1=C(C=CC=C1)CC(=O)O | C14H12N2O4
